Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Hydrochlorothiazide
 
Attending: ___.
 
Chief Complaint:
Bilateral lower extremity edema, chest pain
 
Major Surgical or Invasive Procedure:
Patient left against medical advice

 
History of Present Illness:
___ hx of MI in ___, poorly controlled HTN, presenting with 
lower extremity edema, left leg purulent open wound and 
intermittent chest pain.  He reports that he has had toruble 
with mortgage payments for his house since around ___, and since then has been feling overwhelmed and stopped 
seeing his PCP or taking any medications.  Subsequently he has 
had problems with sewage water entering his house, in which has 
been bathing.  He has noticed that both his legs have been 
swelling up over the past several months.  Over the past few 
weeks, he has also noticed greenish discoloration of his feet 
and toes, spreading up his legs with skin exfoliation, erythema 
and induration - this has been pruritic and he has been itching. 
 Over the past 2 weeks his left leg in particular has developed 
open sores, gradually become purulent and bleeding.  He has 
tried to self medicate himself with healing salve from 
walgreens, which helped initially, but things have progressed, 
bringing him to the ED today.  In addition, he also notes that 
he has recently had occasional substernal chest pain, up to 
twice per week, typically following eating salty pringles: the 
pain is similar to that which he experienced during his MI in 
___.  Pain is not associated with exertion such as climbing 
stairs, no nausea/vomiting/dyspnea/diaphoresis/palpitations.  
Does endorse chills, but no fevers or sweats.  
.
In addition he has found that over the past two weeks he becomes 
tired very esaily, feels tired and weak following climbing three 
flights of stairs, no dyspnea or chest pain.  This is 
superimposed on feling weak and tired for the past year or so 
since stopping medications.
. 
In the ED, initial VS: 99.4 79 199/100 18 100% ra. Exam Labs 
revealed normal electrolytes, blood counts, urinalysis, and 
negative troponin. ___ negative for DVT. CXR without acute 
cardiopulmonary process. Patient was given labetalol 100mg PO x 
one and vancomycin 1 gram IV x one. Vitals prior to transfer:  
___.
.  
Currently, he notes swelling and oozing in his left leg, but no 
pain, no chest pain, dyspnea, orthopnea, palpitations, no change 
in bowel habit, weight loss/gain, nausea, vomiting, diarrhea, no 
dysuria.  Denies any headaches, visual changes.
.  
ROS: Denies fever, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, cough, shortness of breath, 
chest pain, abdominal pain, nausea, vomiting, diarrhea, 
constipation, BRBPR, melena, hematochezia, dysuria, hematuria. 
 
Past Medical History:
--HTN
--HLD
--CAD sp 2 BMS to RCA (___)
--Hypothyroidism
--___ Rheumatic Heart Disease
--Stroke in ___.

 
Social History:
___
Family History:
Heart problems in father, sister has breast cancer, mother lung 
cancer

 
Physical Exam:
On admission:
VS - 98.3, 213/103, 74, 20, 100% RA 
GENERAL - well-appearing man in NAD, comfortable, appropriate  
HEENT - NC/AT, PERRLA, EOMI, sclerae anicteric, MMM, OP clear  
NECK - supple, no thyromegaly, JVP elevated 3 cm above clavicle. 

LUNGS - CTA bilat, no r/rh/wh, good air movement, resp 
unlabored, no accessory muscle use  
HEART - PMI non-displaced, RRR, S1 and S2 clearly heard. 
Mid-systolic murmur. 
ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no 
rebound/guarding  
EXTREMITIES - Bilateral edema, onychomycosis, superficial 
skin/soft tissue infection.  right leg: area of warmth, erythema 
over medial lower shin. left leg: entire lower leg is warm, 
erythematous: multiple large, confluent, exfoliating skin 
lesions oozing blood and pus.     
LYMPH - no cervical, axillary, or inguinal LAD  
NEURO - awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout, sensation grossly intact throughout, DTRs 2+ and 
symmetric, cerebellar exam intact.  
.
At discharge:
Vitals: 98.2, 168/90, 68, 20, 100% RA
GENERAL - well-appearing man in NAD, comfortable, appropriate  
HEENT - NC/AT, PERRLA, EOMI, sclerae anicteric, MMM, OP clear  
NECK - supple, no thyromegaly, JVP elevated 3 cm above clavicle. 

LUNGS - CTA bilat, no r/rh/wh, good air movement, resp 
unlabored, no accessory muscle use  
HEART - PMI non-displaced, RRR, S1 and S2 clearly heard. 
Mid-systolic murmur. 
ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no 
rebound/guarding  
EXTREMITIES - Bilateral edema, onychomycosis, superficial 
skin/soft tissue infection.  right leg: area of warmth, erythema 
over medial lower shin. left leg: entire lower leg is warm, 
erythematous: multiple large, confluent, exfoliating skin 
lesions oozing blood and pus.     
LYMPH - no cervical, axillary, or inguinal LAD  
NEURO - awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout, sensation grossly intact throughout, DTRs 2+ and 
symmetric, cerebellar exam intact. 
 
Pertinent Results:
Admission labs:
___ 03:45PM BLOOD WBC-8.3 RBC-4.89 Hgb-13.6* Hct-44.7 
MCV-91 MCH-27.7 MCHC-30.3* RDW-15.0 Plt ___
___ 03:45PM BLOOD Neuts-70.1* ___ Monos-5.4 Eos-1.8 
Baso-0.9
___ 03:45PM BLOOD Plt ___
___ 04:28PM BLOOD ___ PTT-41.9* ___
___ 03:45PM BLOOD Glucose-88 UreaN-9 Creat-1.2 Na-137 K-4.6 
Cl-102 HCO3-28 AnGap-12
___ 03:45PM BLOOD cTropnT-<0.01
___ 04:27PM BLOOD Lactate-1.4
___ 06:25AM BLOOD TSH-42*
___ 06:25AM BLOOD Triglyc-71 HDL-59 CHOL/HD-2.3 LDLcalc-64
___ 06:25AM BLOOD Albumin-3.7 Calcium-9.6 Phos-4.1 Mg-2.2 
Cholest-137
___ 03:45PM BLOOD cTropnT-<0.01
___ 12:46AM BLOOD CK-MB-4 cTropnT-<0.01
___ 06:25AM BLOOD CK-MB-3 cTropnT-<0.01
___ 06:25AM BLOOD Lipase-11
___ 06:25AM BLOOD ALT-7 AST-16 LD(LDH)-190 AlkPhos-78 
TotBili-0.7
___ 04:27PM BLOOD Lactate-1.4
.
___ Left ___: No evidence of DVT in left lower extremity 
veins within limitations of left calf veins not visualized in 
the study. 
.
___ CXR The cardiac silhouette is mildly prominent. 
Both lungs are clear with no focal consolidation, pleural 
effusion or 
pneumothorax. 
.
___ Echocardiogram The left atrium is mildly dilated. There 
is mild symmetric left ventricular hypertrophy with normal 
cavity size. There is mild regional left ventricular systolic 
dysfunction with inferior hypokinesis. The remaining segments 
contract normally (LVEF = 45-50%). Tissue Doppler imaging 
suggests an increased left ventricular filling pressure 
(PCWP>18mmHg). Right ventricular chamber size and free wall 
motion are normal. The aortic root is mildly dilated at the 
sinus level. The aortic valve leaflets (3) are mildly thickened 
but aortic stenosis is not present. No aortic regurgitation is 
seen. The mitral valve leaflets are mildly thickened. Mild (1+) 
mitral regurgitation is seen. There is a trivial/physiologic 
pericardial effusion. 
IMPRESSION: Mild regional left ventricular systolic dysfunction, 
c/w CAD. Mild mitral regurgitation. 
 
Brief Hospital Course:
___ y/o M with PMH of HTN, HLD, MI, Hypothyroidism, Rheumatic 
heart disease presenting after ___ years off meds with bilateral 
lower extremity edema, left leg cellulitis secondary to possible 
sewage water exposure, intermittent substernal chest pain, and 
hypertension.   
.
# Hypertension:  BP 213/103 on admission: patient has been off 
all antihypertensives since ___, HTN previously 
difficult to control on multiple medications.  Patient denies 
any headaches, visual changes, has likely tolerated very high BP 
for a long time.  HTN likely adding stress to heart, may be 
contributing to chest pain and/or heart failure leading to 
peripheral edema.  Restarted amlodipine, metoprolol, lisinopril 
and IV lasix with improvement of BP to 160s/90s.  We diuresed 
him with furosemide boluses, and titrated his blood pressure 
medications.   Unfortunately, he decided to leave against 
medical advice and prescriptions were not provided on discharge. 
 He was strongly encouraged to keep his PCP follow up 
appointment next week.
.
# Chest pain: Pt reported intermittent chest pain and 
specifically noted chest tightness after climbing two flights of 
stairs to his apt which resolved with rest.   He described this 
symptom as stable for the last month with no increasing 
severity.  Pt was ruled out for acute MI with negative cardiac 
enzymes and TTE was performed which was essentially unchanged 
from prior with prior inferior MI.  We restarted his 
antihypertensives, statin and continued aspirin, and diuresed 
him with lasix.   He will need further cardiac evaluation as an 
outpatient and this was communicated to his PCP 
.
# Left lower extremity wounds: Pt with chronic venous stasis 
changes and skin breakdown oozing blood and pus.  Pt was treated 
initially with vancomycin and cipro for possible cellulitis.  
Wound care was involved in daily dressing and treatment of the 
wound.   Exam was rapidly improving and blood Cx remain negative 
to date.   The plan was to stop antibiotics and continue wound 
care when cultures were negative at 48hrs but pt left against 
medical advice on ___.
.
# Lower extremity edema: Appears to be long-standing, developing 
gradually over months to years.  His edema could reflect 
right-sided heart failure, although myxedema given untreated 
hypothyroidism, inflammation secondary to cellulitis also likely 
contributing.  We diuresed him with lasix as above, restarted 
levothyroxine and treated cellulitis with antibiotics as above.
.
# CAD: s/p MI and stenting in ___.  Subsequently now only 
taking aspirin, completed plavix course in ___.  Current chest 
pain reminiscent of prior CAD but apepars to be associated with 
high salt intake: HTN likely stressing heart.  Ruled out MI with 
serial troponins negative.  Echocardiogram showed no new 
pathology, and we restarted antihypertensives as above.  He will 
need an outpatient stress test to further evaluate for CAD.
.
# Hypothyroidism: TSH was found to be 42.  We restarted 
levothyroxine while in house but pt left AMA without 
prescriptions on ___ evening.
.
# Fatigue: Etiology likely multifactorial, including untreated 
hypothyroidism and heart failure.  stable angina also likely 
contributing.  LFTs were within normal limits.  We diuresed him 
and restarted medications as above, with improvement in his 
energy.  He will need an outpatient stress test to evaluate for 
CAD. 
.
# Elevated ___, PTT: mildly abnormal, at baseline, stable since 
prior.
.
# Hyperlipidemia: Lipid panel normal.  We restarted his statin.
.
# Medication compliance: Patient complaining that he did not 
know why he needed to take medications previously, states that 
he simply felt overwhelmed by events and chose not to take meds 
and that he is able to afford medications.  
.
# AMA: Pt became fixated on bubbles within IV tubing and felt 
this placed him at risk and did not feel safe staying in the 
hospital.   He was seen by multiple nurses, MDs and his son came 
to try and convince him to stay  but he ultimately decided to 
leave against medical advice.  Pt was able to articulate the 
risks of leaving including worsening clinical condition, even 
possible death.  PCP was notified and is working with him to try 
and get him in for close follow up.
 
Medications on Admission:
Currently only taking aspirin and vitamin supplement.  Stopped 
taking all other medications in ___.

 
Discharge Medications:
left AMA
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hypertension, Hypothyroidism, right-sided heart failure, left 
lower extremity cellulitis, medication non-compliance 

Patient left against medical advice

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

Patient left against medical advice

 
Discharge Instructions:
Mr. ___,

You were admitted to the hospital with leg swelling and chest 
pain.  We tried to treat you for your medical problems but you 
decided to leave against medical advice.  You were told about 
the serious risks of leaving the hospital against medical 
advice, and you verbally demonstrated understanding of these 
risks.  We strongly recommend that you follow up with Dr. ___ 
to resume medications.  
 
Followup Instructions:
___